US07850872B2
As shown in the following Reaction 3, 580 mg (4.08 mmol) of 3.4-ethylenedioxythiophene was melted in 10 mL of tetrahydrofuran under nitrogen atmosphere at the temperature of −78° C., and 2.45 mL (6.12 mmol, 1.5 eq) of n-butyllithium was added thereto, and then the reaction solution was stirred for 1 hour. After completion of stirring, 1.37 g (6.12 mmol, 1.5 eq) of zinc bromide was again added to the reaction solution at the temperature of 0° C., and then the reaction solution was stirred for 1 hour. Next, 1.22 g (4.08 mmol, 1 eq) of 4-trimethylsilylethynyl iodobenzene and 110 mg (0.16 mmol, 0.04 eq) of dichlorobis-(triphenylphosphine)palladium(II) were added to the reaction solution, and then the reaction solution was stirred for 12 hours at room temperature. After solvents of the reaction solution were removed by distillation under reduced pressure, the compound distilled under reduced pressure was purified with an alumina column chromatography (mobile phase volume ratio: methylene chloride:n-hexane=2:3) to obtain 740 mg of [4-(2,3-Dihydro-thieno[3,4-b][1,4]dioxin-5-yl)-phenylethynyl]-trimethyl-silane with the yield of 58%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 0.25 (s, 9H), 4.23-4.24 (m, 2H), 4.30-4.32 (m, 2H), 6.32 (s, 1H), 7.44 (d, 2H), 7.64 (d, 2H)].

reactant | 3.4-ethylenedioxythiophene | 4.08 mmol, 580 mg | C1OC2=CSC=C2OC1 | C6H6O2S
reactant | n-butyllithium | 6.12 mmol, 2.45 mL, 1.5 eq | C(CCC)[Li]
reactant | 4-trimethylsilylethynyl iodobenzene | 4.08 mmol, 1.22 g, 1 eq | C[Si](C)(C)C#CC1=CC=C(C=C1)I | C11H13ISi
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc bromide | 6.12 mmol, 1.37 g, 1.5 eq | [Br-].[Zn+2].[Br-]
catalyst | dichlorobis-(triphenylphosphine)palladium(II) | 0.16 mmol, 110 mg, 0.04 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-(2,3-Dihydro-thieno[3,4-b][1,4]dioxin-5-yl)-phenylethynyl]-trimethyl-silane | 740 mg, yield of 58% | O1C=2C(OCC1)=C(SC2)C2=CC=C(C=C2)C#C[Si](C)(C)C | C17H18O2SSi
